### PR TITLE
arch-split ADT_H + PageTableDuplicates cleanup for non-Arm-32

### PR DESCRIPTION
**Pull request by Xaphiosis**
🦆🦆🦆 This time few interface changes and few updates, so they got folded into the split commits. I did a bit of cleanup of PageTableDuplicates in preparation for removing it. Despite putting in some effort, the largest proof remaining in ADT_H in absHeap_correct, remains untamed. It has next to no modularity and immediately descends into arch concepts for doing anything (dealing with TCBs? you'll need to unfold pte_relation_def, obviously). To arch-split that requires re-doing it, and that's maybe for a future pass.

**Instructions:**

In real life, I did the usual addition of ADT_H, hierarchy update, arch-split and then update. However, since the arch-split part first splits AARCH64, then takes the AARCH64 version of ADT_H and only fixes what broke, we ended up with a small(er) diff there (again).

Please review commit-by commit with the following notes (some inconsistency with squash/wip/fake comments on the PR-only commits):
- PageTableDuplicates cleanup : I can't remove it yet (I need an ArchRefine to import from), but I have cleared out everything in that theory for non-Arm-32 arches
- `[squash] PR: copy AARCH64 version into ..._R` - same as last time: stop `..._R` looking like a wall of green (no need to review)
- `refine: arch-split `..._R (AARCH64 ONLY)` - this is the main bulk of the arch-split, dealing with AARCH64
- `[squash][fake] copy AARCH64 Arch..._R to other arches` - wipes the *body* (not the header!) of other arches' Arch..._R with a copy of the AARCH64 version with `AARCH64` appropriately substituted - (mostly pointless to review)
- `[squash] refine: arch-split ..._R (other arches) - result of fixing up the Arch..._R of other architectures - shows diff to AARCH64

Reminder: DO NOT MERGE squashed version if it still says `aarch64 refine: arch-split` or `AARCH64`

Stats: 34 files changed, 3129 insertions(+), 8151 deletions(-)
Total: 5022 lines removed

### CODE REVIEW

**Review by lsf37 — APPROVED** [review]
I have refrained from commenting on old cruft/magic numbers, non-style upper-case function names etc, but this is good prep for a later cleanup phase. I can take on some of that if you want.

In terms of splitting, this is fine, and again more than I expected from this kind of file. Well done. If we can get `absHeap` generic in a second phase, even better.

**Comment by Xaphiosis** [comment]
> I have refrained from commenting on old cruft/magic numbers, non-style upper-case function names etc, but this is good prep for a later cleanup phase. I can take on some of that if you want.

Sure, when I get to the end of pass 1, let's have a chat on how to proceed.

> In terms of splitting, this is fine, and again more than I expected from this kind of file. Well done. If we can get `absHeap` generic in a second phase, even better.

Well, `absHeap` is never going to be generic, but if it were more modular, we could peel off the generic parts at least.

File: proof/refine/ADT_H.thy [hunk 1]
```diff
@@ -0,0 +1,14 @@
...
+ * Copyright 2020, Data61, CSIRO (ABN 41 687 119 230)
+ * Copyright 2023, Proofcraft Pty Ltd
+ *
+ * SPDX-License-Identifier: GPL-2.0-only
+ *)
+
+chapter \<open>Abstract datatype for the executable specification\<close>
+
+theory ADT_H
+  imports ArchSyscall_R (* FIXME arch-split: "AInvs.ADT_AI" *)
```
Comment (corlewis) [inline proof/refine/ADT_H.thy]: Is this FIXME still needed? If it is, I think a more actionable comment is needed, since otherwise there's a good chance we'll have forgotten the context by the time we look at it again.

File: proof/refine/AARCH64/Refine.thy [hunk 2]
```diff
@@ -783,7 +783,8 @@ lemma domain_time_rel_eq:
 
 crunch doUserOp, checkActiveIRQ
   for valid_objs': valid_objs'
-  (wp: crunch_wps)
+  (wp: crunch_wps
+   rule: doUserOp_def) (* crunch can't find the rule of locale-defined constant *)
```
Comment (corlewis) [inline proof/refine/AARCH64/Refine.thy]: Good thinking to add the comment, that should help avoid future confusion. It could be worth a FIXME I guess? It would be nice to figure this out some time.

File: proof/refine/ADT_H.thy [hunk 3]
```diff
@@ -129,13 +62,25 @@ definition
...
-lemma mdata_map'_inv[simp]:
-  "mdata_map' (mdata_map m) = m"
-  by (cases m; simp add: mdata_map_def mdata_map'_def split_def ucast_down_ucast_id is_down)
+locale ADT_H =
+  fixes vm_rights_of :: "vmrights \<Rightarrow> rights set"
+  fixes ArchCapabilityMap :: "arch_capability \<Rightarrow> cap"
+  fixes ArchFaultMap :: "Fault_H.arch_fault \<Rightarrow> ExceptionTypes_A.arch_fault"
+  (* the boolean argument is whether the TCB is the current FPU owner; on non-FPU architectures
+     this is ignored, but the common type allows a generic phrasing of TcbMap *)
+  fixes ArchTcbMap :: "Structures_H.arch_tcb \<Rightarrow> bool \<Rightarrow> Structures_A.arch_tcb"
```
Comment (corlewis) [inline proof/refine/ADT_H.thy:71]: Very useful comment, thank you!

File: proof/refine/ADT_H.thy [hunk 4]
```diff
@@ -893,12 +309,35 @@ proof -
   from rel have gsCNodes:
     "\<forall>a n. (\<exists>cs. kheap s a = Some (CNode n cs) \<and> well_formed_cnode_n n cs) \<longleftrightarrow>
            gsCNodes s' a = Some n"
-    by (simp add: state_relation_def ghost_relation_def)
+    by (clarsimp simp: state_relation_def simp flip: cns_of_heap_Some
+                 dest!: ghost_relation_wrapper_genD)
+
+  (* arch-split: selection of helpers with same proof on all architectures due to the definitions
+     of these constants being available even in generic theories; 3 is size of cte_ref inside a TCB
+     CNode, and 8 = 2^3. *)
```
Comment (corlewis) [inline proof/refine/ADT_H.thy:317]: Another useful comment, that must have been 'fun' to figure out.

File: proof/refine/AARCH64/ArchADT_H.thy [hunk 5]
```diff
@@ -333,125 +146,76 @@ lemma unaligned_page_offsets_helper:
...
-   apply (clarsimp simp add: power_add[symmetric])
-  apply clarsimp
-  apply (drule mult_less_mono1[of "2 ^ (64 - obj_bits ko)" _ "2 ^ obj_bits ko"])
-   apply (simp add: power_add[symmetric])+
-  done
+definition absArchState ::
+  "Arch.kernel_state \<Rightarrow> (obj_ref \<rightharpoonup> arch_kernel_object) \<Rightarrow> arch_state"
+  where
+  "absArchState s' aobjs' \<equiv>
+   case s' of
```
Comment (corlewis) [inline proof/refine/AARCH64/ArchADT_H.thy]: Old style nitpick: indentation

File: proof/refine/ARM/ArchADT_H.thy [hunk 6]
```diff
@@ -24,152 +25,113 @@ lemma vm_rights_of_vmrights_map_id[ADT_H_assms, simp]:
...
-    VGICInterface hcr vmcr apr lr \<Rightarrow> gic_vcpu_interface.make hcr vmcr apr lr"
-
-lemma absVGIC_eq[simp]:
-  "absVGIC (vgic_map vgic) = vgic"
-  by (simp add: vgic_map_def absVGIC_def gic_vcpu_interface.make_def)
+definition
+  absPageTable :: "(word32 \<rightharpoonup> Structures_H.kernel_object) \<Rightarrow> obj_ref \<Rightarrow>
+                  word8 \<Rightarrow> ARM_A.pte"
+  where
+  "absPageTable h a \<equiv> %offs.
```
Comment (corlewis) [inline proof/refine/ARM/ArchADT_H.thy]: Due to the way these commits are constructed for PR review it makes it look like ARM, ARM_HYP and X64 revert the improved AARCH64 style for these definitions. If it's easy we could fix them now, otherwise I guess this is more for the next cleanup phase.

File: proof/refine/ARM/ArchADT_H.thy [hunk 7]
```diff
@@ -223,125 +204,136 @@ proof -
...
      apply (erule_tac x=x in allE, clarsimp)
      apply (erule_tac x=x in allE, simp add: Ball_def)
      apply (erule_tac x=x in allE, clarsimp)
-     apply (rename_tac a)
-     apply (case_tac a; simp add: other_obj_relation_def
-                             split: if_split_asm Structures_H.kernel_object.splits)
+
+     apply (case_tac a)
+         apply (simp_all add: other_obj_relation_def
+                       split: if_split_asm Structures_H.kernel_object.splits)
```
Comment (corlewis) [inline proof/refine/ARM/ArchADT_H.thy]: Increasingly minor, but this is one proof change that it would be nice to copy across from AARCH64: `; simp` is definitely a lot nicer than `simp_all`.

File: proof/refine/ARM/ArchADT_H.thy [hunk 8]
```diff
@@ -223,125 +204,136 @@ proof -
...
+          apply (case_tac arch_kernel_obj, simp_all add: other_obj_relation_def)
+            apply (clarsimp simp add: pte_relation_def)
+           apply (clarsimp simp add: pde_relation_def)
           apply (clarsimp split: if_split_asm)+
 
          apply (erule pspace_dom_relatedE[OF _ pspace_relation])
-         apply (case_tac ko; simp add: tcb_relation_cut_def other_obj_relation_def)
-          apply (clarsimp simp: cte_relation_def split: if_split_asm)
+         apply (case_tac ko, simp_all add: tcb_relation_cut_def other_obj_relation_def)
+          apply (clarsimp simp add: cte_relation_def split: if_split_asm)
```
Comment (corlewis) [inline proof/refine/ARM/ArchADT_H.thy]: Another `simp_all` that could be replaced.

**Review by corlewis — APPROVED** [review]
Very nice!

Feel free to ignore my comments on the old architectures if you want to leave them for future cleanup, I was only pointing them out because the commit structure makes them so noticeable while reviewing.

File: proof/refine/ADT_H.thy (hunk 1 above)
Comment (Xaphiosis) [reply proof/refine/ADT_H.thy]: thanks for spotting that, will remove

File: proof/refine/AARCH64/Refine.thy (hunk 2 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/Refine.thy]: will add FIXME

File: proof/refine/AARCH64/ArchADT_H.thy (hunk 5 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/ArchADT_H.thy]: I'll indent the entire block from `case s' of` to the end, on all arches

File: proof/refine/ARM/ArchADT_H.thy (hunk 6 above)
Comment (Xaphiosis) [reply proof/refine/ARM/ArchADT_H.thy]: Yeah it was a verbatim copy of the ones from their specific arch. I'll see what I can do.

File: proof/refine/ARM/ArchADT_H.thy (hunk 7 above)
Comment (Xaphiosis) [reply proof/refine/ARM/ArchADT_H.thy]: will do

File: proof/refine/ARM/ArchADT_H.thy (hunk 8 above)
Comment (Xaphiosis) [reply proof/refine/ARM/ArchADT_H.thy]: These ones are more numerous, in the block after the `intro conjI impI allI` on most arches. I think it's better to leave them to a separate cleanup, especially since `absHeap_correct` is a large lemma that gave me a total failure when it comes to arch-splitting, and I'd want to see it reworked someday.

**Comment by Xaphiosis** [comment]
@corlewis updates should be done, please take a look to see if they address your comments

File: proof/refine/ARM/ArchADT_H.thy (hunk 8 above)
Comment (corlewis) [reply proof/refine/ARM/ArchADT_H.thy]: Fair enough, hopefully a lot of this can go away as part of that rework anyway.

**Comment by corlewis** [comment]
> @corlewis updates should be done, please take a look to see if they address your comments

Looks good to me, thanks for making those changes.

**Comment by Xaphiosis** [comment]
Squashed and rebased, will merge when tests pass.
